US08748624B2
STEP C: ethyl 3-(5-(5-methoxy-2-(((4′-(trifluoromethyl)-[1,1-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Ethyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-5-methoxyphenyl)picolinamido)propanoate (200 mg, 0.39 mmol), (4-(trifluoromethyl)phenyl)boronic acid (111 mg, 0.59 mmol), Pd(dppf)Cl2 (43 mg, 0.06 mmol), and K2CO3 (108 mg, 0.78 mmol) were dissolved in 1,4-dioxane (4 mL) and water (1 mL) and the resulting mixture was heated to 80° C. After 2 h the resulting mixture was cooled to room temperature, diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | Ethyl 3-(5-(2-(((4-bromophenyl)amino)methyl)-5-methoxyphenyl)picolinamido)propanoate | 0.39 mmol, 200 mg | BrC1=CC=C(C=C1)NCC1=C(C=C(C=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C25H26BrN3O4
reactant | (4-(trifluoromethyl)phenyl)boronic acid | 0.59 mmol, 111 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 0.78 mmol, 108 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.06 mmol, 43 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 3-(5-(5-methoxy-2-(((4′-(trifluoromethyl)-[1,1-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | COC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C32H30F3N3O4
